US07361660B2
a) Methyl 1,2,3,4-tetrahydro-3-methyl-6-[2-methyl-1H-indol-3-ylmethyl]-1-(2-methylpropyl)-2,4-dioxothieno[2,3-d]pyrimidine-5-carboxylate
A solution of methyl 1,2,3,4-tetrahydro-3,6-dimethyl-1-(2-methylpropyl)-2,4-dioxo-thieno[2,3-d]pyrimidine-5-carboxylate [example 1 step a), 7.00 g) and N-bromosuccinimide (4.42 g) in chloroform (140 ml) was refluxed under illumination from a tungsten lamp for 2 hours. The solution was cooled to room temperature, saturated aqueous sodium bicarbonate solution (140 ml) and 2-methylindole (5.92 g) were added and the mixture stirred rapidly for 48 hours. The phases were separated and the aqueous phase extracted with dichloromethane (100 ml). Combined organic extracts were dried over anhydrous magnesium sulfate, filtered and evaporated under reduced pressure. The residue was purified by column chromatography over silica, eluting with ethyl acetate/i-hexane (1:3) to give the sub-title compound as a pale brown solid (6.68 g).

reactant | methyl 1,2,3,4-tetrahydro-3,6-dimethyl-1-(2-methylpropyl)-2,4-dioxo-thieno[2,3-d]pyrimidine-5-carboxylate | CN1C(N(C2=C(C1=O)C(=C(S2)C)C(=O)OC)CC(C)C)=O | C14H18N2O4S
reactant | N-bromosuccinimide | 4.42 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | sodium bicarbonate | 140 ml | C([O-])(O)=O.[Na+]
reactant | 2-methylindole | 5.92 g | CC=1NC2=CC=CC=C2C1 | C9H9N
solvent | chloroform | 140 ml | C(Cl)(Cl)Cl | CHCl3
product | Methyl 1,2,3,4-tetrahydro-3-methyl-6-[2-methyl-1H-indol-3-ylmethyl]-1-(2-methylpropyl)-2,4-dioxothieno[2,3-d]pyrimidine-5-carboxylate | 6.68 g | CN1C(N(C2=C(C1=O)C(=C(S2)CC2=C(NC1=CC=CC=C21)C)C(=O)OC)CC(C)C)=O | C23H25N3O4S
